US04929641
To 2-acetylthiomethyl-3-(2-methylphenyl)propionic acid (1.80 g, 7.0 mmol) in toluene (50 ml) add thionyl chloride (1.25 g, 10.5 mmol). Stir 18 hr, concentrate, dilute with toluene, concentrate, and repeat to obtain 2-acetylthiomethyl-3-(2-methylphenyl)propionyl chloride, a yellow liquid.

reactant | 2-acetylthiomethyl-3-(2-methylphenyl)propionic acid | 7.0 mmol, 1.80 g | C(C)(=O)SCC(C(=O)O)CC1=C(C=CC=C1)C | C13H16O3S
reactant | thionyl chloride | 10.5 mmol, 1.25 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 2-acetylthiomethyl-3-(2-methylphenyl)propionyl chloride | C(C)(=O)SCC(C(=O)Cl)CC1=C(C=CC=C1)C | C13H15ClO2S
